US06949648B2
4-Chloro-3,8-dimethyl-1-(2-quinolinyl)-1H-pyrazolo[3,4-b]quinoline
Following the procedures described in Reference Example 1-10 and Example 1-34, the title compound was prepared from 8-methyl-2-(2-oxopropyl)-4H-3,1-benzoxazin-4-one and 2-hydrazinoquinoline which was separately prepared from 2-chloroquinoline following the method described in Reference Example 1-9 (42% yield).

reactant | 8-methyl-2-(2-oxopropyl)-4H-3,1-benzoxazin-4-one | CC1=CC=CC=2C(OC(=NC21)CC(C)=O)=O | C12H11NO3
reactant | 2-hydrazinoquinoline | N(N)C1=NC2=CC=CC=C2C=C1 | C9H9N3
reactant | 2-chloroquinoline | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
product | 4-Chloro-3,8-dimethyl-1-(2-quinolinyl)-1H-pyrazolo[3,4-b]quinoline | ClC1=C2C(=NC3=C(C=CC=C13)C)N(N=C2C)C2=NC1=CC=CC=C1C=C2 | C21H15ClN4
